US03956248
A. Preparation of Ethyl Acrylate/Ethylene/Vinyl Chloroacetate Copolymer
A solution of 20 g. ethylacrylate 2.0 g. of vinyl chloroacetate, 0.0165 gram-mole and 0.15 g. 2,2'-azobis(2-methylpropionitrile) in 200 ml dichloromethane is saturated with BF3 and placed in a 400 ml shaker tube. The general procedure of Example 1, Part A is followed except that the temperature is kept at 25°C. for 6 hours. There is obtained 24.3 g. of copolymer having an inherent viscosity of 1.77 (measured as above) and containing 0.5% Cl (1.7 wt. % vinyl chloroacetate).

reactant | ethylacrylate | 2.0 g | C(C)OC(C=C)=O | C5H8O2
reactant | vinyl chloroacetate | ClCC(=O)OC=C | C4H5ClO2
reactant | 2,2'-azobis(2-methylpropionitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | BF3 | B(F)(F)F | BF3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Ethyl Acrylate Ethylene Vinyl Chloroacetate | C(C=C)(=O)OCC.C=C.ClCC(=O)OC=C | InChI=1S/C5H8O2.C4H5ClO2.C2H4/c1-3-5(6)7-4-2;1-2-7-4(6)3-5;1-2/h3H,1,4H2,2H3;2H,1,3H2;1-2H2
